US06992100B2
5. Preparation of 2-(1-Methoxy-5,6,7,8-tetrahydronaphthalen-2-yl)-3-nitrobenzoic acid, methyl ester
A solution of 2-chloro-3-nitrobenzoic acid, methyl ester, (2.06 g, 9.61 mM), 1-methoxy-5,6,7,8-tetrahydronaphthalene-2-boronic acid, (2.08 g, 10.09 mM), tetrakis(triphenylphosphine)palladium(0) (0.583 g, 0.5 mM), and 2M aqueous sodium carbonate solution (10.5 mL, 21.0 mM) in THF (50 mL) was stirred at reflux for 48 hours in the absence of light. The mixture was cooled to room temperature, the THF removed in vacuo, and the resulting aqueous residue dissolved in ethyl acetate and brine. The solvent layers were separated, the aqueous layer extracted with ethyl acetate (4×25 mL), the combined ethyl acetate extracts washed successively with H2O, 1N HCl, saturated aqueous NaHCO3 solution, and saturated brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The resultant black oil was purified by column chromatography on silica gel (elution with 5–15% ethyl acetate/hexane) to afford 0.656 g (20%) of the title compound 2-(1-methoxy-5,6,7,8-tetrahydronaphthalen-2-yl)-3-nitrobenzoic acid, methyl ester as a yellow solid (MW 341.37, C19H19NO5).

reactant | 2-chloro-3-nitrobenzoic acid, methyl ester | 9.61 mM, 2.06 g | ClC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C8H6ClNO4
reactant | 1-methoxy-5,6,7,8-tetrahydronaphthalene-2-boronic acid | 10.09 mM, 2.08 g | COC1=C(C=CC=2CCCCC12)B(O)O | C11H15BO3
reactant | sodium carbonate | 2M, 10.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.5 mM, 0.583 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(1-Methoxy-5,6,7,8-tetrahydronaphthalen-2-yl)-3-nitrobenzoic acid, methyl ester | 0.656 g, 20% | COC1=C(C=CC=2CCCCC12)C1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C19H19NO5
